US04002647
6.0 g. of 6,6-dimethyl-3-hepten-2-one, 15.0 g. of ethoxycarbonylmethylene-triphenyl-phosphorane and 2.5 g. of benzoic acid are dissolved in 90 ml. of absolute benzene and heated under reflux for 65 hours. The cooled reaction mixture is poured onto 75 ml. of ice-water and 15 ml. of 2-N aqueous sodium hydroxide and the benzene layer separated. The aqueous phase is re-extracted twice with diethyl ether and the extracts are washed with 10% by weight aqueous potassium bicarbonate solution, three times with water and once with saturated sodium chloride solution, dried over sodium sulfate and evaporated. The residue is taken up with a small amount of hexane and filtered. The filtrate is chromatographed on silica gel with hexane-diethyl ether (9:1 parts by volume). 3,7,7-Trimethyl-2,4-octadienoic acid ethyl ester is obtained as an isomer mixture which is distilled in a bulb-tube at 65° C./0.05 mmHg; nD20 = 1.4855.

reactant | 6,6-dimethyl-3-hepten-2-one | CC(CC=CC(C)=O)(C)C | C9H16O
reactant | ethoxycarbonylmethylene-triphenyl-phosphorane | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,7,7-Trimethyl-2,4-octadienoic acid ethyl ester | C(C)OC(C=C(C=CCC(C)(C)C)C)=O | C13H22O2
